US06350761B1
To a suspension of Ph3P (2.4 g) in 30 mL of MeCN at 0° C. was added bromine (1.5 g) and the mixture was stirred at 0° C. for 15 minutes and then warmed to ambient temperature. To the suspension of Br2PPh3 was then added 3-cyano-6-((4-methoxybenzyl)oxy)-1-(3-hydroxyprop-2-en-1-yl)benzene (2.3 g) in 20 mL MeCN drop-wise. The resulting solution was stirred at ambient temperature for 1 hour, cooled to ambient temperature and concentrated. The residue was purified on silica gel column (ethyl acetate/hexane, 1:9) to afford 3-cyano-6-((4-methoxybenzyl)oxy)-1-(3-bromoprop-2-en-1-yl)benzene (0.81 g) as a yellow oil.

reactant | Ph3P | 2.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | bromine | 1.5 g | BrBr | Br2
reactant | 3-cyano-6-((4-methoxybenzyl)oxy)-1-(3-hydroxyprop-2-en-1-yl)benzene | 2.3 g | C(#N)C=1C=C(C(=CC1)OCC1=CC=C(C=C1)OC)CC=CO | C18H17NO3
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | 3-cyano-6-((4-methoxybenzyl)oxy)-1-(3-bromoprop-2-en-1-yl)benzene | 0.81 g | C(#N)C=1C=C(C(=CC1)OCC1=CC=C(C=C1)OC)CC=CBr | C18H16BrNO2
